US06191124B1
3-(3-Fluorophenyl)-1-(6,7,8,9-tetrahydro-5H-cyclohept[d]imidazo[2,1-b]thiazol-3-yl)-2-propene-1-one (Formula N-5, X=3-fluoro), 0.34 g, in ethanol (35 mL) was treated with NaBH4 (0.11 g), reacted for 3 hours, and solvent removed in vacuo. The residue was suspended in water, filtered and the filter cake was crystallized from acetonitrile to provide pure α-[2-(3-fluorophenyl) ethenyl]-6,7,8,9-tetrahydro-5H, imidazo[2,1-b]thiazole-3-methanol, 0.30 g, m.p. 175-176° (Formula N-8, X=3-fluoro).

reactant | 3-(3-Fluorophenyl)-1-(6,7,8,9-tetrahydro-5H-cyclohept[d]imidazo[2,1-b]thiazol-3-yl)-2-propene-1-one | FC=1C=C(C=CC1)C=CC(=O)C1=CN=C2SC3=C(N21)CCCCC3 | C19H17FN2OS
reactant | NaBH4 | 0.11 g | [BH4-].[Na+]
reactant | ethanol | 35 mL | C(C)O | C2H6O
product | imidazo[2,1-b]thiazole-3-methanol | S1C=2N(C(=C1)CO)C=CN2 | C6H6N2OS
